US05686419
Diphenyl 1-(N-Benzyloxycarbonylamino)-2-(4-cyanophenyl)ethanephosphonate [Cbz-(4-CN-Phe)P (OPh)2 ].
This compound was synthesized from crude 4-cyanophenylacetaldehyde, benzyl carbamate, and triphenylphosphite using a modification of the previously described amidoalkylation procedure.9Benzyl carbamate (6.1 g, 40 mmole) and 4-cyanophenylacetaldehyde (4.7 g, 32 mmole) were dissolved in 50 mL toluene and refluxed for 1 h. The toluene was evaporated, glacial acetic acid (10 mL) and triphenyl phosphite (8.5 mL, 32 mmole) were added to the residue, and the mixture was heated at 80 ° C. for 2 h. The volatile materials were removed by evaporation in vacuo and the resulting oil was dissolved in 50 mL methanol. The solution was refrigerated overnight and the white precipitate was filtered, dried, and recrystallized from 50 mL hot methanol. The undissolved product was discarded, and the filtrate was cooled down to give white crystals, yield 25-35%; mp 136°-137° C.; 1H NMR (DMSO) δ8.20 (d, 1H), 7.75 (d, 2H), 7.54 (d, 2H), 7.35 (m, 5H), 7.3-7.1 (m, 10H), 4.95 (q, 2H), 4.60 (m, 1H), 3.4-3.0 (m, 2H); MS (FAB+) m/e 513 (m+1). Anal. (C29H25N2O5P) C, H, N.

reactant | 4-cyanophenylacetaldehyde | C(#N)C1=CC=C(C=C1)CC=O | C9H7NO
reactant | benzyl carbamate | C(N)(OCC1=CC=CC=C1)=O | C8H9NO2
reactant | triphenylphosphite | C1(=CC=CC=C1)OP(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | 4-cyanophenylacetaldehyde | 32 mmole, 4.7 g | C(#N)C1=CC=C(C=C1)CC=O | C9H7NO
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | triphenyl phosphite | 32 mmole, 8.5 mL | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | Diphenyl 1-(N-Benzyloxycarbonylamino)-2-(4-cyanophenyl)ethanephosphonate | yield 25-35% | C(C1=CC=CC=C1)OC(=O)NC(CC1=CC=C(C=C1)C#N)P(OC1=CC=CC=C1)(=O)OC1=CC=CC=C1 | C29H25N2O5P
